US08003662B2
Step D: Preparation of (R)—N-(3-fluoro-4-(2-(4-(3-hydroxypyrrolidine-1-carbonyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A capped vial was charged with 4-(7-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)benzoic acid (0.100 g, 0.168 mmol), HOBT-H2O (0.103 g, 0.671 mmol), EDCI (0.129 g, 0.671 mmol), and DMF (2 mL). After stirring for 45 minutes, (R)-pyrrolidin-3-ol (0.0584 g, 0.671 mmol) and Hunig's base (0.175 ml, 1.01 mmol) were added. After stirring for 18 hours, water (20 mL) was added. The formed precipitate was isolated by filtration. After drying, (62 mg, 55%) of product was isolated as orange solid. LRMS (esi+) 666 m/z (M+1) detected. 1H NMR (CDCl3, 400 MHz) δ 11.84 (s, 1H), 8.47 (s, 1H), 8.39 (d, J=4 Hz, 1H), 8.22 (d, J=4 Hz, 1H), 7.97 (m, 1H), 7.76 (m, 3H), 7.62 (m, 4H), 7.39 (d, J=9 Hz, 1H), 7.26 (m, 3H), 6.52 (d, J=6 Hz, 1H), 4.50 (br s, 1H), 3.72 (m, 5H), 2.07 (m, 2H).

reactant | 4-(7-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)thieno[3,2-b]pyridin-2-yl)benzoic acid | 0.168 mmol, 0.100 g | FC1=C(OC2=C3C(=NC=C2)C=C(S3)C3=CC=C(C(=O)O)C=C3)C=CC(=C1)NC(=O)C1=CC=NN(C1=O)C1=CC=C(C=C1)F | C31H18F2N4O5S
reactant | HOBT H2O | 0.671 mmol, 0.103 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDCI | 0.671 mmol, 0.129 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-pyrrolidin-3-ol | 0.671 mmol, 0.0584 g | N1C[C@@H](CC1)O | C4H9NO
reactant | Hunig's base | 1.01 mmol, 0.175 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)—N-(3-fluoro-4-(2-(4-(3-hydroxypyrrolidine-1-carbonyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 62 mg, 55% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)C(=O)N2C[C@@H](CC2)O)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C35H25F2N5O5S
